US05041679
1.00 Gram of 6-(3-chlorophenylthio)-4-hydroxy-5-methyl-2-hexanone was dissolved in 100 ml of toluene, and 0.02 g of p-toluene sulfonic acid was added thereto. The resulting mixture was refluxed for 1.5 hours with stirring. After having been cooled, the mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and then saturated aqueous sodium chloride solution. Then the mixture was dried over anhydrous magnesium sulfate. Removing the solvent from the mixture under reduced pressure gave 1.05 g of 6-(3-chlorophenylthio)-5-methyl-3-hexen-2-one. (trans : cis =5.7 : 1) (purity: 88.6%). The yield was 98.9%.

reactant | 6-(3-chlorophenylthio)-4-hydroxy-5-methyl-2-hexanone | ClC=1C=C(C=CC1)SCC(C(CC(C)=O)O)C | C13H17ClO2S
reactant | p-toluene sulfonic acid | 0.02 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3-chlorophenylthio)-5-methyl-3-hexen-2-one | 1.05 g, yield was 98.9% | ClC=1C=C(C=CC1)SCC(C=CC(C)=O)C | C13H15ClOS
